2180-11-23 09:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2180-11-22**] 09:56 PM
   Much less tachypneic this AM, oxygen requirement reduced overnight.
   Able to speak more comfortably in sentences.
   Developed mild hematuria this AM.  No bleeding elsewhere.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-11-23**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 96 (95 - 112) bpm
   BP: 108/74(85) {99/65(76) - 123/82(96)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    622 mL
                                                                  1,415 mL
   PO:
             TF:
   IVF:
                                                                    622 mL
                                                                  1,415 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    105 mL
   Urine:
                                                                    200 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    422 mL
                                                                  1,310 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.40/42/159/24/1
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic, Mild
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): O x 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   154 K/uL
   110 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.1 mEq/L
   18 mg/dL
   105 mEq/L
   139 mEq/L
   32.5 %
   5.8 K/uL
        [image002.jpg]
                            [**2180-11-22**]  09:00 PM
                            [**2180-11-22**]  10:32 PM
                            [**2180-11-23**]  05:23 AM
                            [**2180-11-23**]  05:46 AM
   WBC
   5.8
   Hct
   35.6
   32.5
   Plt
   154
   Cr
   0.5
   TropT
   0.05
   0.06
   TCO2
   27
   27
   Glucose
   110
   Other labs: PT / PTT / INR:14.2/130.2/1.2, CK / CKMB /
   Troponin-T:22//0.06, Lactic Acid:1.0 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Acute pulmonary emboli ("saddle")
   RESPIRATORY DISTRESS -- attributed to actue pulmonary embolism, on
   background of COPD and partial RUL resection.  Treat PE, continue COPD
   medications.
   PULMONARY EMBOLISM, ACUTE -- "saddle" by CT angio;  therapeutic on iv
   Heparin.  Evidence for RV strain by echo in ER --> repeat formal study
   to assess RV function (may have underlying pulmonary hypertension
   related to COPD).
   HYPOXEMIA -- attributed to extensive pulmonary embolism.  Continue
   supplimentall oxygen --> maintain >90%.
   OLIGURIA -- prerenal; improved with iv fluids.  Monitor uo, BUN,
   creatinine.
   FLUIDS -- hypovolemic;  receiving iv fluids, monitor I/O.
   s/p RUL RESECTION, partial (wedge) -- no further plans.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-11-22**] 09:00 PM
   Arterial Line - [**2180-11-22**] 09:56 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2180-11-24 12:38:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2180-11-23**] 08:30 AM
   lenies of both legs, thorombus seen [**Name6 (MD) **] report md [**First Name (Titles) 3350**]
[**Last Name (Titles) 6139**]D - At [**2180-11-23**] 09:19 AM
   cardiac echo
   Sleeping.  Able to speak more comfortably, although in full sentences.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-11-24**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 100 (86 - 119) bpm
   BP: 121/69(86) {104/61(77) - 131/80(96)} mmHg
   RR: 22 (19 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,757 mL
                                                                  1,884 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                  4,037 mL
                                                                  1,884 mL
   Blood products:
   Total out:
                                                                    572 mL
                                                                    353 mL
   Urine:
                                                                    572 mL
                                                                    353 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,185 mL
                                                                  1,531 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, Paralyzed,
   Tone: Normal
   Labs / Radiology
   10.7 g/dL
   159 K/uL
   94 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   110 mEq/L
   138 mEq/L
   31.1 %
   7.0 K/uL
        [image002.jpg]
                            [**2180-11-22**]  09:00 PM
                            [**2180-11-22**]  10:32 PM
                            [**2180-11-23**]  05:23 AM
                            [**2180-11-23**]  05:46 AM
                            [**2180-11-23**]  02:05 PM
                            [**2180-11-24**]  03:05 AM
   WBC
   5.8
   7.0
   Hct
   35.6
   32.5
   31.1
   Plt
   154
   159
   Cr
   0.5
   0.7
   0.7
   TropT
   0.05
   0.06
   TCO2
   27
   27
   Glucose
   110
   149
   94
   Other labs: PT / PTT / INR:13.1/77.2/1.1, CK / CKMB /
   Troponin-T:22//0.06, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   RESPIRATORY DISTRESS -- attributed to pulmoonary embolism.
   PULMONARY EMBOLISM -- saddle embolism.  Responding to therapy.
   HEART FAILURE -- evidence for right heart strain by echo.  Will need
   f/u to assess at 1 week.
   OSA -- CPAP at night.
   HYPOTENSION -- resolved.  Monitor BP.
   COPD -- continue usual meds.   Increase prednisone if COPD flair
   apparent.
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2180-11-22**] 09:00 PM
   Arterial Line - [**2180-11-22**] 09:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2180-11-25 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   NAC d/c'd
   Taper Steroids
   Coumadin initiated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-11-25**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 97 (93 - 115) bpm
   BP: 132/75(95) {99/58(73) - 135/80(96)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,746 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  2,746 mL
                                                                    111 mL
   [**Year (4 digits) 1526**] products:
   Total out:
                                                                    973 mL
                                                                    580 mL
   Urine:
                                                                    973 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,773 mL
                                                                   -469 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen: Appears more comfortable than on presentation, able to speak in
   whole sentences, NAD.
   HEENT: NCAT, EOMI, PERRLA, symmetric
   CV: RRR, without m/g/r
   Chest: Well healing incision, symmetric shallow expansion with
   tachypnea, mildly rhonchorous bil anterior and posteriorly.
   Abd: NABS, obese, without TTP or masses
   Ext: WWP with 2+ DP pulses b/l, symmetric, no erythema, warmth or TTP,
   2+ tibial edema bil
   Neuro: Non-focal, moving all limbs equally, speaking coherently in
   short, [**5-6**] word sentences, CNII-XII grossly intact.
   Labs / Radiology
   176 K/uL
   10.4 g/dL
   114 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   10 mg/dL
   107 mEq/L
   134 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                            [**2180-11-22**]  09:00 PM
                            [**2180-11-22**]  10:32 PM
                            [**2180-11-23**]  05:23 AM
                            [**2180-11-23**]  05:46 AM
                            [**2180-11-23**]  02:05 PM
                            [**2180-11-24**]  03:05 AM
                            [**2180-11-25**]  03:39 AM
   WBC
   5.8
   7.0
   6.0
   Hct
   35.6
   32.5
   31.1
   30.3
   Plt
   154
   159
   176
   Cr
   0.5
   0.7
   0.7
   0.5
   TropT
   0.05
   0.06
   TCO2
   27
   27
   Glucose
   110
   149
   94
   114
   Other labs: PT / PTT / INR:13.5/76.7/1.2, CK / CKMB /
   Troponin-T:22//0.06, Lactic Acid:1.0 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   59 yo F, s/p thoracotomy with RUL wedge resection and
   tracheo/bronchoplasty on [**2180-10-4**] p/w acute hypoxemia from rehab, found
   to have large saddle emboli and e/o RV strain.
   .
   # Pulmonary Embolism: Currently HD stable with SBP 100-120
s and HR in
   90-100s.  Patient weaned down from 6L O2 with current adequate O2
   saturation on 2L but with mild SOB.  LENI showed Bil LE DVTs; etiology
   suggesting source could be immobility with recent surgery and rehab vs.
   hypercoaguable state from ?FH with father having [**Name2 (NI) **] clot.  With
   severe underlying COPD, will need to maximize pulmonary dynamics. ECHO
   showed dilated RV with mod hypokinesis and pulm art HTN with preserved
   LV global function.
   - Appreciate CT/Cardiac [**Doctor First Name 458**] recs.
   - Heparin gtt per SS for goal PTT 60-100-Currently at 25,000units at
   1,150units/hr. Will begin coumadin bridge with Coumadin 5mg PO qday for
   the next two days and discuss regimen on Monday.
   - Monitoring with Telemetry and A line
   - Hold TPA unless e/o HD compromise such as SBP < 90, HR > 120, hypoxia
   not fixed by supplemental O2 alone; CT of head neg reassuring if TPA is
   necessary.
   - Continue COPD treatment: Advair, tiotroprium, Albuterol PRN and
   steroid taper
   - Oxycodone for pain relief
   .
   # RV strain: Concerning on ECHO, EKG and CTA.  Given current
   hemodynamics, is very pre-load dependent. Low UOP. Given 250cc NS bolus
   this am. Does have 18g IV x 3. Initial FENa of 0, BUN/Cr > 20 and a
   high urine specific gravity, suggestive of need for fluid
   resuscitation.  Currently running at 125mL/hr NS. However, mild rhonchi
   on exam this am, LLE edema, and mod RV hypokinesis concerning of fluid
   overload.
   - Re-evaluate in UOP PM.
   - If acute decompensation, consider TPA and continue IVF
   .
   # COPD: Signficant underlying disease.  Likely contributing to overall
   pulmonary compromise with tachypnea not helpful given need to have
   prolonged expiration.
   - Continue COPD meds
   - Continue steroid taper (currently at Prednisone 10mg PO daily #[**3-6**]
   days), with ISS
   .
   # s/p Thoracotomy, RUL lobe resection and tracheo/bronchoplasty: Per
   Thoracic surgery, TPA fine despite recent surgery if HD compromise.
   - f/up Thoracic and Cardiac surgery recs
   - Pain control with bowel regimen
   .
   # Recent N/V, ?D: Recent illness. No leukocystosis or fever on
   presentation.  UA negative.  Cdif neg x1.
   - Monitor and f/u Cdif studies.
   # OSA: On CPAP at rehab. Tolerating well O/N.
   - Continue CPAP inpatient
   .
   # Hyperglycemia [**3-4**] steroids: Continue FS QID and ISS
   .
   FEN: Advancing diet to regular-diabetic / replete PRN
   Proph: PPI, heparin gtt
   .
   CODE: FULL
   .
   Contact: [**Name (NI) 98**] (husband) [**Telephone/Fax (1) 6112**]
   .
   Dispo: MICU for now; will consider calling out tonight/tomorrow if
   patient remains HD stable and resp status improves.
   ICU Care
   Lines:
   18 Gauge - [**2180-11-22**] 09:00 PM
   Arterial Line - [**2180-11-22**] 09:56 PM
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known lastname 6162**] 59W recent tracheobronchoplasty, readmitted with massive PE,
   heparized, started on coumadin
   Exam notable for Tm 97.5   HR 97   BP 132/75  RR 22  with 96 sat on 3L
   nc  comforatble, no respiratory distress, minimal wheezing
   Labs notable for WBC 6K, HCT 30 plt 176 , Na 132 ,K+  , HCO3 22 ,Cr .5
   inr 1.2 ptt 77
   Problems: [**Name2 (NI) 6163**] PE, recent tracheoplasty, COPD
   Agree with plan to anticoagulate, continue COPD care, get OOB today
   Remainder of plan as outlined above.